US03937704
2'-amino-5'-methyl-2-(methylsulfinyl)acetophenone
This compound was prepared by reacting a solution of 44 g of NaH (57%) in a mixture of 600 ml. of DMSO and 1200 ml. of benzene with 50 g of methyl 5-methyl anthranilate (J. Med. Chem. 11 500) in analogous fashion to 2'-amino-4',5'-dimethoxy-2-(methylsulfinyl)acetophenone. The material was recrystallized from ethyl acetate with the aid of charcoal, m.p. 145°-47°; yield 30 g (47%).

reactant | NaH | 44 g | [H-].[Na+]
reactant | DMSO | CS(=O)C | C2H6OS
reactant | 2'-amino-4',5'-dimethoxy-2-(methylsulfinyl)acetophenone | NC1=C(C=C(C(=C1)OC)OC)C(CS(=O)C)=O | C11H15NO4S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2'-amino-5'-methyl-2-(methylsulfinyl)acetophenone | NC1=C(C=C(C=C1)C)C(CS(=O)C)=O | C10H13NO2S
